US06235780B1
To a solution of lithium diisopropylamide (800 ml; 2.0 M THF solution) in THF (800 ml) was added dropwise over a period of 50 minutes under cooling with ice, a solution of cyclobutanecarboxylic acid (80 g) in THF (100 ml) and the mixture was stirred at room temperature for two hours. To the mixture ethyl iodide (64.0 ml) was added dropwise and the mixture was stirred at room temperature overnight. To the reaction solution was added 2N hydrochloric acid and the mixture was extracted with ethyl acetate. The organic layer was washed by water and a saturated aqueous solution of sodium chloride, dried over anhydrous magnesium sulfate and concentrated to give 1-ethylcyclobutanecarboxylic acid (142 g).

reactant | lithium diisopropylamide | 2.0 M, 800 ml | C(C)(C)[N-]C(C)C.[Li+]
reactant | cyclobutanecarboxylic acid | 80 g | C1(CCC1)C(=O)O | C5H8O2
reactant | ethyl iodide | 64.0 ml | C(C)I | C2H5I
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | THF | 800 ml | C1CCOC1 | C4H8O
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | 1-ethylcyclobutanecarboxylic acid | 142 g | C(C)C1(CCC1)C(=O)O | C7H12O2
